US09399647B2
To a mixture of [4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-yl]-methanol (0.25 g, 0.00086 mol), 3-hydroxypyridine (0.090 g, 0.00095 mol) & triphenylphosphine (0.24 g, 0.00095 mol) in THF (20 ml) was added DIAD (0.19 g, 0.00095 mol) in THF (5 ml), and the mixture was stirred at room temperature for 12 h. The reaction mixture was concentrated and the resulting crude material was purified by preparative HPLC to give cyclopropyl-methyl-[2-(pyridine-3-yloxymethyl)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl]-amine (35 mg, 11%) as a brown residue. 1H NMR (400 MHz, CDCl3): δ 0.35-0.42 (m, 2H), 0.62-0.68 (m, 2H), 1.72-1.78 (m, 2H), 1.88-1.97 (m, 2H), 2.80-2.90 (m, 5H), 3.00 (s, 3H), 5.24 (s, 2H), 7.16 (dd, 1H), 7.30 (dd, 1H), 8.17 (dd, 1H), 8.42 (d, 1H); LC-MS: [M+H]=367.3 m/z.

reactant | [4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-yl]-methanol | 0.00086 mol, 0.25 g | C1(CC1)N(C=1C2=C(N=C(N1)CO)SC1=C2CCCC1)C | C15H19N3OS
reactant | 3-hydroxypyridine | 0.00095 mol, 0.090 g | OC=1C=NC=CC1 | C5H5NO
reactant | triphenylphosphine | 0.00095 mol, 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.00095 mol, 0.19 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | cyclopropyl-methyl-[2-(pyridine-3-yloxymethyl)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl]-amine | 35 mg, 11% | C1(CC1)N(C=1C2=C(N=C(N1)COC=1C=NC=CC1)SC1=C2CCCC1)C | C20H22N4OS
